US07189851B2
(8bS)-N-[(1R)-2,3-dihydro-1H-inden-1-yl]-7-[2-(4-fluorophenyl)ethyl]-6,13-dioxo-5,8b,9,10,11,13-hexahydro-6H-benzo[c]pyrrolizino[2,1-f][2,7]naphthyridine-3-carboxamide
A solution of ethyl (9aS)-4-(4-{[(1R)-2,3-dihydro-1H-inden-1-ylamino]carbonyl}-2-nitrophenyl)-2-[2-(4-fluorophenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizine-3-carboxylate Example 53 (0.068 g, 0.11 mmol, 1 equiv) in a 1:1 mixture of ethanol and H2O (4.0 mL) was treated with sodium dithionite (0.057 g, 0.33 mmol, 3 equiv). After 12 h, the reaction was acidified with 1 N HCl to ca. pH 5. Extraction with EtOAc (3×3 mL) was followed by drying (Na2SO4), and concentration. Trituration with acetone gave 0.048 g (80%) of analytically pure title compound as a light brown solid: 1H NMR (DMSO-d6, 400 MHz) δ 10.80 (s, 1H); low resolution MS (ES+) m/e 573 (MH+); RP-HPLC (Dynamax C-18 25 cm×4.1 mm; 50–100% CH3CN in H2O with 0.1% TFA buffer; 30 minutes; 1 mL/min) tr=11.39 min, 97% purity.

reactant | ethyl (9aS)-4-(4-{[(1R)-2,3-dihydro-1H-inden-1-ylamino]carbonyl}-2-nitrophenyl)-2-[2-(4-fluorophenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizine-3-carboxylate | [C@H]1(CCC2=CC=CC=C12)NC(=O)C1=CC(=C(C=C1)C1=C(C(=NC2=C1C(N1CCC[C@@H]21)=O)CCC2=CC=C(C=C2)F)C(=O)OCC)[N+](=O)[O-] | C37H33FN4O6
reactant | ethanol | C(C)O | C2H6O
reactant | sodium dithionite | 0.33 mmol, 0.057 g, 3 equiv | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | H2O | 4.0 mL | O | H2O
product | (8bS)-N-[(1R)-2,3-dihydro-1H-inden-1-yl]-7-[2-(4-fluorophenyl)ethyl]-6,13-dioxo-5,8b,9,10,11,13-hexahydro-6H-benzo[c]pyrrolizino[2,1-f][2,7]naphthyridine-3-carboxamide | [C@H]1(CCC2=CC=CC=C12)NC(=O)C=1C=CC2=C(NC(C=3C(=NC4=C(C23)C(N2CCC[C@H]24)=O)CCC2=CC=C(C=C2)F)=O)C1 | C35H29FN4O3
